US08071631B2
4-Methyl-N-[3-(phenyl)-1,2,4-triazol-5-yl]benzenesulfonamide
To a solution of 5-phenyl-4H-1,2,4-triazol-3-amine (354 mg, 2 mmol) in dry pyridine (10 mL) was added 4-methylbenzenesulfonyl chloride (427 mg, 2.24 mmol). The solution was stirred at room temperature under Argon. After 48 h, the pyridine was removed in vacuo and flashed off with toluene. The residue was partitioned between CH2Cl2 and 1M NaOH. The organic phase was washed with 1M NaOH until no turbidity was observed on rectification of a small sample. The alkaline phase was made acidic (˜pH 3) with 1M HCl and extracted with CH2Cl2. After drying over Na2SO4, the solvent was removed in vacuo to give 0.41 g crude product. The crude product was dissolved hot EtOAc (16 mL), diluted with hexane (16 mL), and seeded to give fine white needles (304 mg) with mp 220-221° C.

reactant | 5-phenyl-4H-1,2,4-triazol-3-amine | 2 mmol, 354 mg | C1(=CC=CC=C1)C=1NC(=NN1)N | C8H8N4
reactant | 4-methylbenzenesulfonyl chloride | 2.24 mmol, 427 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | EtOAc | 16 mL | CCOC(=O)C | C4H8O2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | hexane | 16 mL | CCCCCC | C6H14
product | 4-Methyl-N-[3-(phenyl)-1,2,4-triazol-5-yl]benzenesulfonamide | 304 mg | CC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NN1)C1=CC=CC=C1 | C15H14N4O2S
